US08455613B2
Step 1: 4-(3,5-dibromophenoxy)butan-1-amine
1-(4′-phthalimidobutoxy)3,5-dibromobenzene (1.0 g, 2.20 mmol) was dissolved in ethanol (45 mL) for 5 minutes under nitrogen. Hydrazine monohydrate (610 mg, 12.1 mmol) was added and the reaction was refluxed at 80° C. for 2 hours. To the reaction aqueous 1M HCl (17.7 mL, 17.7 mmol) was added and refluxed at 105° C. for another 2 hours. The aqueous layer was extracted with dichloromethane (2×150 mL). The organic layers were combined, washed with saturated NaHCO3 (3′×), water, and brine, then dried over MgSO4, and filtered. Removal of solvent yielded a yellow oil (560 mg, 78%).

reactant | 1-(4′-phthalimidobutoxy)3,5-dibromobenzene | 2.20 mmol, 1.0 g | C1(C=2C(C(N1CCCCOC1=CC(=CC(=C1)Br)Br)=O)=CC=CC2)=O | C18H15Br2NO3
reactant | Hydrazine monohydrate | 12.1 mmol, 610 mg | O.NN
reactant | HCl | 17.7 mmol, 1M, 17.7 mL | Cl | ClH
solvent | ethanol | 45 mL | C(C)O | C2H6O
product | 4-(3,5-dibromophenoxy)butan-1-amine | 560 mg, 78% | BrC=1C=C(OCCCCN)C=C(C1)Br | C10H13Br2NO
